US05889021
Preparation of 3-propanoyl-4-(2-methylphenylamino)-8-(2-propylsulfinylethoxy)quinoline.
3-Propanoyl-4-(2-methylphenylamino)-8-(2-propylthioethoxy)quinoline (0.5 g, 1.22 mmol) was dissolved in 10 ml methylene chloride. A solution of sodium bicarbonate (250 mg, 3.0 mmol) in 10 ml water was added. The mixture was cooled to 2°-4° C. A solution of 70% m-CPBA (295 mg, 1.20 mmol) in 10 ml methylene chloride was added dropwise during 10 min. The temperature was allowed to rise to room temperature and the mixture was stirred 30 min at this temperature. The organic layer was dried over Na2SO4 and evaporated. The residue was purified by column chromatography (methylene chloride:ethanol 90:10) to give 380 mg (73%) of the title compound.

reactant | 3-Propanoyl-4-(2-methylphenylamino)-8-(2-propylthioethoxy)quinoline | 1.22 mmol, 0.5 g | C(CC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCSCCC | C24H28N2O2S
reactant | sodium bicarbonate | 3.0 mmol, 250 mg | C([O-])(O)=O.[Na+]
reactant | m-CPBA | 1.20 mmol, 295 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-propanoyl-4-(2-methylphenylamino)-8-(2-propylsulfinylethoxy)quinoline | 380 mg, 73% | C(CC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCS(=O)CCC | C24H28N2O3S
